2170-10-16 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2170-10-15**] 11:00 AM
 URINE CULTURE - At [**2170-10-15**] 11:00 AM
 MULTI LUMEN - START [**2170-10-15**] 12:45 PM
 PICC LINE - START [**2170-10-15**] 01:35 PM
 ARTERIAL LINE - START [**2170-10-15**] 01:38 PM
 ULTRASOUND - At [**2170-10-15**] 04:00 PM
   right upper quadrant ultrasound
   - Transfused 3 units PRBC with appropriate bump in hct, platelets x1,
   FFP x1, cryoprecipitate x1.
   - RUQ US: No evidence of cholecystitis, innumerable hepatic mets
   - Low hapto, unchanged LDH. Smear from this AM did not show
   schistocytes
   - Renal function improving
   - RIJ placed. As patient was hemodynamically stable without fever or
   change in mental status, PICC left in place for now.
   - Unable to pass NGT this morning
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-10-15**] 08:28 PM
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-16**] 04:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-16**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 96 (91 - 111) bpm
   BP: 105/53(68) {92/46(59) - 121/62(78)} mmHg
   RR: 21 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  4,270 mL
                                                                    200 mL
   PO:
   TF:
   IVF:
                                                                    950 mL
                                                                    200 mL
   Blood products:
                                                                  1,820 mL
   Total out:
                                                                  5,050 mL
                                                                    700 mL
   Urine:
                                                                  4,300 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -780 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.38/32/77.[**Numeric Identifier 96**]/20/-4
   Physical Examination
   General: Appears jaundiced; resting comfortably in bed
   HEENT: Icteric sclera
   CV: RRR, normal S1/S2, no murmurs appreciated
   Pulm: Clear to auscultation bilaterally, no wheezes/rales/rhonchi
   appreciated
   Abdomen: Mild pain to palpation right of umbilicus, normoactive bowel
   sounds, mildly distended, soft
   Neuro: Mild asterixis
   Labs / Radiology
   35 K/uL
   8.6 g/dL
   119 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.7 mEq/L
   27 mg/dL
   105 mEq/L
   132 mEq/L
   23.0 %
   2.3 K/uL
        [image002.jpg]
                             [**2170-10-15**]  10:46 AM
                             [**2170-10-15**]  02:29 PM
                             [**2170-10-15**]  05:37 PM
                             [**2170-10-15**]  09:16 PM
                             [**2170-10-15**]  11:10 PM
                             [**2170-10-16**]  04:03 AM
   WBC
   1.8
   2.5
   3.0
   2.3
   Hct
   16.5
   18.9
   25.6
   24.2
   23.0
   Plt
   16
   40
   36
   34
   35
   Cr
   1.3
   1.1
   1.0
   TropT
   0.01
   TCO2
   20
   Glucose
   107
   121
   119
   Other labs: PT / PTT / INR:14.4/25.1/1.2, CK / CKMB /
   Troponin-T:95/4/0.01, ALT / AST:176/360, Alk Phos / T Bili:790/8.8,
   Differential-Neuts:77.0 %, Band:8.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:7002 ng/mL, Fibrinogen:146 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.0 g/dL, LDH:451 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   52 year-old male with a history of metastatic prostate cancer who
   presents with hypotension, tacchycardia, acute renal failure and
   worsening anemia and liver function tests.
   #. Anemia: Source unclear. Hemolysis labs abnormal, coags normal
   (although given vitamin K yesterday). No schistocytes seen on smear.
   Does not appear to be DIC given normal coags
 but with low fibrinogen,
   elevated FDP. Sequestration possible but no spleen enlargement
   appreciated on physical exam. [**Month (only) 60**] be drug-induced (ceftriaxone); this
   was discontinued prior to transfer to [**Hospital Unit Name 44**]. [**Doctor First Name 2674**] also possible ([**2-10**]
   malignancy?) though no schistocytes seen on peripheral smear.
   - Repeat peripheral smear
   - Coombs test
   - Consult hematology
   - CT scan of abdomen to assess for RP bleed
   - Q6 hour CBCs, coags
   - Transfuse to hct> 25, platelets>20; transfuse 1U platelets, 2U pRBCs
   - Recheck fibrinogen
   # Hypotension/tachycardia: Likely due to hypovolemia from blood loss
   and poor po intake. Improved overnight.
   Other possibility is infection with urine as most likely source given
   frequent manipulation. Other possibilities include cardiac although no
   ekg changes. Patient has no resp complaints but he does have h/o PE and
   is not on systemic anticoagulation due to bleeding.
   - Will give pRBCs, platelets as above
   - Closely monitor MAP, CVP
 will give IVF bolus as needed (goal
   MAP>65)
   - Urine, blood cultures with no growth at this point
   - Treat empirically with vanc and zosyn for possible urine source
   no indication of active infection at this time, will consider
   discontinuing antibiotics
   -CVL and A line for closer monitoring
   # AMS: Improved. Was likely due to hypotension, possibly infection,
   worsening liver function and kidney function on a number of sedating
   medications, possible hepatic encephalopathy.
   - if mental status worsens, will consider lactulose PR
 currently NPO,
   and unable to place NGT.
   - Empiric tx with abx for possible infectious source as above
   - Consider head CT to evaluate for bleeding if mental status worsens
   - Hold sedating meds
   # Metastatic prostate cancer: defer to primary onc team
   .
   # ARF: Now resolved. Was likely pre-renal due to hypotension and
   tacchycardia.
   # Elevated liver function tests: Likely due to mets, hypotension.
   Improving.
   - Continue to trend
   - Consider lactulose PR if mental status worsens, as above
   # Radiation cystitis: Frank hematuria x2 weeks
   - If clots or not flushing, need to call urology
 already involved
   - Continue cbi
   - cont oxybutinin (may need to hold for mental status changes)
   - cont urojet
   # OSA: cpap at night
   # Chronic pain: Hold sedating pain medications at this time. Will need
   to monitor for withdrawl and maybe with improvement in blood pressure
   can restart renally dosed methadone. Will cont gabapentin.
   # H/O DVT/PE: not anticoagulation candidate, has IVC filter which was
   placed [**2168**].
   # Depression: cont citalopram
   # FEN:  IVF bolus to keep MAP> 65, replete lytes prn, npo for now given
   mental status
   # Access : PICC- d/c once get central access, central access
   # PPx: protonix, pneumoboots
   # Code:  full, confirmed with his oncologist
   # Dispo:  ICU level of care for now
   # Comm:  [**Name (NI) 16**] (wife) [**Telephone/Fax (1) 5836**]
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-15**] 12:45 PM
   PICC Line - [**2170-10-15**] 01:35 PM
   Arterial Line - [**2170-10-15**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-10-17 10:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No urology recs
   - Spoke with Dr. [**Last Name (STitle) 5889**], patient's oncologist. Anemia/thrombocytopenia
   likely [**2-10**] bone mets from prostate CA + hematuria. No recommendations
   at this time.
   - On [**2170-10-17**], needs type and screen reordered
   - Received 4U pRBCs, 1U platelets, and 500ml bolus x1
   - Guiac(+) stool, no melena or BRBPR
   - CT abdomen/pelvis - No RP or intraabdominal bleed
   - Sent off Coombs - pending
   - Hct: 23.0>20.6>23.2>23.6
   - Peripheral smear with occasional schistocytes
   History obtained from Patient
   Allergies:
   History obtained from PatientCiprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-16**] 11:33 AM
   Vancomycin - [**2170-10-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies chest pain, abdominal pain, lower extremity pain, shortness of
   breath. Thirsty this morning. Otherwise no complaints.
   Flowsheet Data as of  [**2170-10-17**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 108 (97 - 115) bpm
   BP: 95/51(64) {77/40(52) - 104/56(70)} mmHg
   RR: 21 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 8 (3 - 13)mmHg
   Total In:
                                                                  3,051 mL
                                                                  1,012 mL
   PO:
                                                                    700 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                    237 mL
   Blood products:
                                                                  1,351 mL
                                                                    375 mL
   Total out:
                                                                  2,150 mL
                                                                  2,700 mL
   Urine:
                                                                  2,150 mL
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    901 mL
                                                                 -1,688 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General: Jaundiced, no acute distress
   Skin: Purpura on all extremities, abdomen, and flank
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Clear to auscultation bilaterally, no wheezes, rales, or rhonchi.
   Labs / Radiology
   52 K/uL
   9.5 g/dL
   131 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.6 mEq/L
   21 mg/dL
   105 mEq/L
   136 mEq/L
   24.3 %
   2.7 K/uL
        [image002.jpg]
                             [**2170-10-15**]  10:46 AM
                             [**2170-10-15**]  02:29 PM
                             [**2170-10-15**]  05:37 PM
                             [**2170-10-15**]  09:16 PM
                             [**2170-10-15**]  11:10 PM
                             [**2170-10-16**]  04:03 AM
                             [**2170-10-16**]  10:41 AM
                             [**2170-10-16**]  05:51 PM
                             [**2170-10-17**]  12:30 AM
                             [**2170-10-17**]  05:37 AM
   WBC
   1.8
   2.5
   3.0
   2.3
   2.4
   2.2
   2.9
   2.3
   2.7
   Hct
   16.5
   18.9
   25.6
   24.2
   23.0
   20.6
   23.2
   23.6
   24.3
   Plt
   16
   40
   36
   34
   35
   29
   77
   65
   52
   Cr
   1.3
   1.1
   1.0
   0.8
   0.7
   TropT
   0.01
   TCO2
   20
   Glucose
   107
   121
   119
   127
   131
   Other labs: PT / PTT / INR:13.8/23.2/1.1, CK / CKMB /
   Troponin-T:95/4/0.01, ALT / AST:156/309, Alk Phos / T Bili:785/10.3,
   Differential-Neuts:62.0 %, Band:0.0 %, Lymph:18.0 %, Mono:11.0 %,
   Eos:0.0 %, D-dimer:7002 ng/mL, Fibrinogen:125 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:3.0 g/dL, LDH:411 IU/L, Ca++:8.3 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   52 year-old male with a history of metastatic prostate cancer who
   presents with hypotension, tacchycardia, acute renal failure and
   worsening anemia and liver function tests.
   #. Anemia: Source unclear. Hemolysis labs abnormal, coags normal
   (although given vitamin K yesterday). No schistocytes seen on smear.
   Does not appear to be DIC given normal coags
 but with low fibrinogen,
   elevated FDP. Sequestration possible but no spleen enlargement
   appreciated on physical exam. [**Month (only) 60**] be drug-induced (ceftriaxone); this
   was discontinued prior to transfer to [**Hospital Unit Name 44**]. [**Doctor First Name 2674**] also possible ([**2-10**]
   malignancy?) though no schistocytes seen on peripheral smear.
   - Repeat peripheral smear
   - Coombs test
   - Consult hematology
   - CT scan of abdomen to assess for RP bleed
   - Q6 hour CBCs, coags
   - Transfuse to hct> 25, platelets>20; transfuse 1U platelets, 2U pRBCs
   - Recheck fibrinogen
   # Hypotension/tachycardia: Likely due to hypovolemia from blood loss
   and poor po intake. Improved overnight.
   Other possibility is infection with urine as most likely source given
   frequent manipulation. Other possibilities include cardiac although no
   ekg changes. Patient has no resp complaints but he does have h/o PE and
   is not on systemic anticoagulation due to bleeding.
   - Will give pRBCs, platelets as above
   - Closely monitor MAP, CVP
 will give IVF bolus as needed (goal
   MAP>65)
   - Urine, blood cultures with no growth at this point
   - Treat empirically with vanc and zosyn for possible urine source
   no indication of active infection at this time, will consider
   discontinuing antibiotics
   -CVL and A line for closer monitoring
   # AMS: Improved. Was likely due to hypotension, possibly infection,
   worsening liver function and kidney function on a number of sedating
   medications, possible hepatic encephalopathy.
   - if mental status worsens, will consider lactulose PR
 currently NPO,
   and unable to place NGT.
   - Empiric tx with abx for possible infectious source as above
   - Consider head CT to evaluate for bleeding if mental status worsens
   - Hold sedating meds
   # Metastatic prostate cancer: defer to primary onc team
   .
   # ARF: Now resolved. Was likely pre-renal due to hypotension and
   tacchycardia.
   # Elevated liver function tests: Likely due to mets, hypotension.
   Improving.
   - Continue to trend
   - Consider lactulose PR if mental status worsens, as above
   # Radiation cystitis: Frank hematuria x2 weeks
   - If clots or not flushing, need to call urology
 already involved
   - Continue cbi
   - cont oxybutinin (may need to hold for mental status changes)
   - cont urojet
   # OSA: cpap at night
   # Chronic pain: Hold sedating pain medications at this time. Will need
   to monitor for withdrawl and maybe with improvement in blood pressure
   can restart renally dosed methadone. Will cont gabapentin.
   # H/O DVT/PE: not anticoagulation candidate, has IVC filter which was
   placed [**2168**].
   # Depression: cont citalopram
   # FEN:  IVF bolus to keep MAP> 65, replete lytes prn, npo for now given
   mental status
   # Access : PICC- d/c once get central access, central access
   # PPx: protonix, pneumoboots
   # Code:  full, confirmed with his oncologist
   # Dispo:  ICU level of care for now
   # Comm:  [**Name (NI) 16**] (wife) [**Telephone/Fax (1) 5836**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-15**] 12:45 PM
   PICC Line - [**2170-10-15**] 01:35 PM
   Arterial Line - [**2170-10-15**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-10-18 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt given 2U FFP and 2U pRBC --> Hct: 26.6 --> 27.0
   - Coombs was negative
   - Urology: may consider formalin
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-16**] 11:33 AM
   Vancomycin - [**2170-10-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-18**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 93 (93 - 109) bpm
   BP: 102/52(66) {77/40(52) - 112/59(76)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  2,495 mL
                                                                     64 mL
   PO:
                                                                    500 mL
   TF:
   IVF:
                                                                    870 mL
                                                                     64 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  4,700 mL
                                                                    800 mL
   Urine:
                                                                  4,700 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,205 mL
                                                                   -736 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Jaundiced, no acute distress; alert to person and place
   Skin: Purpura on all extremities, abdomen, and flank
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Clear to auscultation bilaterally, no wheezes, rales, or rhonchi
   Abd: Distended, normoactive bowel s
   Ext: Upper extremities cool to touch; radial pulses 2+; DP pulses 2+;
   mild lower extremity edema to thighs bilaterally
   Labs / Radiology
   38 K/uL
   10.0 g/dL
   100 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.3 mEq/L
   17 mg/dL
   105 mEq/L
   134 mEq/L
   26.7 %
   2.7 K/uL
        [image002.jpg]
                             [**2170-10-15**]  09:16 PM
                             [**2170-10-15**]  11:10 PM
                             [**2170-10-16**]  04:03 AM
                             [**2170-10-16**]  10:41 AM
                             [**2170-10-16**]  05:51 PM
                             [**2170-10-17**]  12:30 AM
                             [**2170-10-17**]  05:37 AM
                             [**2170-10-17**]  05:57 PM
                             [**2170-10-17**]  09:38 PM
                             [**2170-10-18**]  04:25 AM
   WBC
   2.3
   2.4
   2.2
   2.9
   2.3
   2.7
   Hct
   24.2
   23.0
   20.6
   23.2
   23.6
   24.3
   26.6
   27.0
   26.7
   Plt
   34
   35
   29
   77
   65
   52
   38
   Cr
   1.1
   1.0
   0.8
   0.7
   0.6
   TCO2
   20
   Glucose
   121
   119
   127
   131
   100
   Other labs: PT / PTT / INR:14.0/24.4/1.2, CK / CKMB /
   Troponin-T:95/4/0.01, ALT / AST:136/263, Alk Phos / T Bili:711/10.3,
   Differential-Neuts:62.0 %, Band:0.0 %, Lymph:18.0 %, Mono:11.0 %,
   Eos:0.0 %, D-dimer:7002 ng/mL, Fibrinogen:109 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:3.0 g/dL, LDH:335 IU/L, Ca++:8.1 mg/dL, Mg++:1.2 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   52 year-old male with a history of metastatic prostate cancer who
   presents with hypotension, tacchycardia, acute renal failure and
   worsening anemia and liver function tests.
   #. Anemia: Source still unclear.
   * CT abdomen/pelvis without any bleeding source.
   * Hemolysis labs abnormal, coags normal (although given vitamin K
   yesterday). No schistocytes seen on smear. Does not appear to be DIC
   given normal coags
 but with low fibrinogen, elevated FDP.
   Sequestration possible but no spleen enlargement appreciated on
   physical exam.
   * [**Month (only) 60**] be drug-induced (ceftriaxone); this was discontinued prior to
   transfer to [**Hospital Unit Name 44**]. [**Doctor First Name 2674**] also possible ([**2-10**] malignancy?); repeat
   peripheral smear with schistocytes
   * Coombs test negative
   - Need to establish plan with urology and oncology
 given that patient
   has considerably blood loss in urine, may urologic procedure for
   correction - ?formalin injection?
   - Q8 hour CBCs, coags
 consider prophylactic blood transfusions
   - Transfuse to hct> 25, platelets>30
   - Recheck fibrinogen daily
   # Hypotension/tachycardia: Likely due to hypovolemia from blood loss
   and poor po intake. CVP 3-13 overnight. Infection unlikely
 afebrile,
   no positive cultures.
   - pRBCs, IVF boluses to maintain MAP>65
   - Closely monitor MAP, CVP
 will give IVF bolus as needed (goal
   MAP>65)
   - Urine, blood cultures with no growth to this point
 antibiotics
   d/c
d on [**10-17**]
   - CVL and A line for closer monitoring
   # Metastatic prostate cancer: defer to primary onc team
   # ARF: Now resolved. Was likely pre-renal due to hypotension and
   tacchycardia.
   #Elevated liver function tests: Likely due to mets, hypotension.
   Improving.
   - Continue to trend
   - Consider lactulose PR if mental status worsens, as above
   # Radiation cystitis: Frank hematuria x2 weeks
   - Urology recs
   - If clots or not flushing, need to call urology
 already involved
   - cont oxybutinin (may need to hold for mental status changes)
   - cont urojet
   # OSA: cpap at night
   # Chronic pain: Hold sedating pain medications at this time. Will need
   to monitor for withdrawl and maybe with improvement in blood pressure
   can restart renally dosed methadone. Will cont gabapentin.
   # H/O DVT/PE: not anticoagulation candidate, has IVC filter which was
   placed [**2168**].
   # Depression: cont citalopram
   # FEN:  Liquid diet; bolus to keep MAP> 65, replete lytes prn, npo for
   now given mental status
   # Access : PICC- d/c once get central access, central access
   # PPx: protonix, pneumoboots
   # Code:  full, confirmed with his oncologist
   # Dispo:  ICU level of care for now
   # Comm:  [**Name (NI) 16**] (wife) [**Telephone/Fax (1) 5836**]
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-15**] 12:45 PM
   PICC Line - [**2170-10-15**] 01:35 PM
   Arterial Line - [**2170-10-15**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-10-19 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct 25, transfused 1unit PRBC
   - 11p: MAP ~60 and hct 22.5, transfused 2u PRBC
        Received total 3U pRBCs and 1U platelets
   - Per urology, plan for OR this afternoon for formulin in bladder - NPO
   after midnight
   - Sacral and heel decubitus ulcers. Bed ordered, nutrition and wound
   care consults placed.
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-16**] 11:33 AM
   Vancomycin - [**2170-10-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-10-18**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-19**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 96 (95 - 123) bpm
   BP: 97/45(61) {78/39(52) - 105/84(86)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (5 - 12)mmHg
   Total In:
                                                                  2,326 mL
                                                                    876 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,651 mL
                                                                    126 mL
   Blood products:
                                                                    575 mL
                                                                    750 mL
   Total out:
                                                                  2,850 mL
                                                                    300 mL
   Urine:
                                                                  2,850 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -524 mL
                                                                    576 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.46///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Jaundiced
   Cardiovascular: (S1: Normal), (S2: Normal), No murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Tender: , Obese
   Skin:  Not assessed, Rash: Diffuse purpura, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   63 K/uL
   8.5 g/dL
   107 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.6 mEq/L
   13 mg/dL
   108 mEq/L
   135 mEq/L
   22.5 %
   2.7 K/uL
        [image002.jpg]
                             [**2170-10-16**]  10:41 AM
                             [**2170-10-16**]  05:51 PM
                             [**2170-10-17**]  12:30 AM
                             [**2170-10-17**]  05:37 AM
                             [**2170-10-17**]  05:57 PM
                             [**2170-10-17**]  09:38 PM
                             [**2170-10-18**]  04:25 AM
                             [**2170-10-18**]  12:41 PM
                             [**2170-10-18**]  02:12 PM
                             [**2170-10-18**]  11:02 PM
   WBC
   2.2
   2.9
   2.3
   2.7
   2.1
   2.7
   Hct
   20.6
   23.2
   23.6
   24.3
   26.6
   27.0
   26.7
   25.0
   22.5
   Plt
   29
   77
   65
   52
   38
   38
   63
   Cr
   0.8
   0.7
   0.6
   0.5
   0.6
   Glucose
   127
   131
   100
   127
   107
   Other labs: PT / PTT / INR:14.0/24.4/1.2, CK / CKMB /
   Troponin-T:95/4/0.01, ALT / AST:136/263, Alk Phos / T Bili:711/10.3,
   Differential-Neuts:73.0 %, Band:6.0 %, Lymph:14.0 %, Mono:3.0 %,
   Eos:0.0 %, D-dimer:7002 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:3.0 g/dL, LDH:335 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   52 year-old male with a history of metastatic prostate cancer who
   presents with hypotension, tacchycardia, acute renal failure and
   worsening anemia and liver function tests.
   #. Anemia: Source still unclear.
   * CT abdomen/pelvis without any bleeding source.
   * Hemolysis labs abnormal, coags normal (although given vitamin K
   yesterday). No schistocytes seen on smear. Does not appear to be DIC
   given normal coags
 but with low fibrinogen, elevated FDP.
   Sequestration possible but no spleen enlargement appreciated on
   physical exam.
   * [**Month (only) 60**] be drug-induced (ceftriaxone); this was discontinued prior to
   transfer to [**Hospital Unit Name 44**]. [**Doctor First Name 2674**] also possible ([**2-10**] malignancy?); repeat
   peripheral smear with schistocytes
   * Coombs test negative
   - Need to establish plan with urology and oncology
 given that patient
   has considerably blood loss in urine, may urologic procedure for
   correction - ?formalin injection?
   - Q8 hour CBCs, coags
 consider prophylactic blood transfusions
   - Transfuse to hct> 25, platelets>30
   - Recheck fibrinogen daily
   # Hypotension/tachycardia: Likely due to hypovolemia from blood loss
   and poor po intake. CVP 3-13 overnight. Infection unlikely
 afebrile,
   no positive cultures.
   - pRBCs, IVF boluses to maintain MAP>65
   - Closely monitor MAP, CVP
 will give IVF bolus as needed (goal
   MAP>65)
   - Urine, blood cultures with no growth to this point
 antibiotics
   d/c
d on [**10-17**]
   - CVL and A line for closer monitoring
   # Metastatic prostate cancer: defer to primary onc team
   # ARF: Now resolved. Was likely pre-renal due to hypotension and
   tacchycardia.
   #Elevated liver function tests: Likely due to mets, hypotension.
   Improving.
   - Continue to trend
   - Consider lactulose PR if mental status worsens, as above
   # Radiation cystitis: Frank hematuria x2 weeks
   - Urology recs
   - If clots or not flushing, need to call urology
 already involved
   - cont oxybutinin (may need to hold for mental status changes)
   - cont urojet
   # OSA: cpap at night
   # Chronic pain: Hold sedating pain medications at this time. Will need
   to monitor for withdrawl and maybe with improvement in blood pressure
   can restart renally dosed methadone. Will cont gabapentin.
   # H/O DVT/PE: not anticoagulation candidate, has IVC filter which was
   placed [**2168**].
   # Depression: cont citalopram
   # FEN:  Liquid diet; bolus to keep MAP> 65, replete lytes prn, npo for
   now given mental status
   # Access : PICC- d/c once get central access, central access
   # PPx: protonix, pneumoboots
   # Code:  full, confirmed with his oncologist
   # Dispo:  ICU level of care for now
   # Comm:  [**Name (NI) 16**] (wife) [**Telephone/Fax (1) 5836**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-15**] 12:45 PM
   PICC Line - [**2170-10-15**] 01:35 PM
   Arterial Line - [**2170-10-15**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-10-20 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 2U pRBCs prior to urology procedure > hct 31.7 at 2120
   - Went to OR for formalin procedure; soft Foley placed; per urology,
   will take 3-5 days for formalin to fully take effect
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-10-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-10-19**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-20**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 109 (96 - 114) bpm
   BP: 97/61(73) {69/46(60) - 108/65(78)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 10 (5 - 10)mmHg
   Total In:
                                                                  2,388 mL
                                                                    489 mL
   PO:
                                                                    200 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    239 mL
   Blood products:
                                                                    948 mL
   Total out:
                                                                  1,300 mL
                                                                    915 mL
   Urine:
                                                                  1,300 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,088 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   11.5 g/dL
   121 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   14 mg/dL
   109 mEq/L
   137 mEq/L
   30.9 %
   3.3 K/uL
        [image002.jpg]
                             [**2170-10-17**]  05:57 PM
                             [**2170-10-17**]  09:38 PM
                             [**2170-10-18**]  04:25 AM
                             [**2170-10-18**]  12:41 PM
                             [**2170-10-18**]  02:12 PM
                             [**2170-10-18**]  11:02 PM
                            [**2170-10-19**]  05:39 AM
                            [**2170-10-19**]  10:51 AM
                            [**2170-10-19**]  09:20 PM
                            [**2170-10-20**]  05:00 AM
   WBC
   2.1
   2.7
   2.4
   4.3
   3.3
   Hct
   26.6
   27.0
   26.7
   25.0
   22.5
   26.1
   31.7
   30.9
   Plt
   38
   38
   63
   53
   82
   71
   78
   Cr
   0.6
   0.5
   0.6
   0.5
   0.6
   Glucose
   100
   127
   107
   118
   121
   Other labs: PT / PTT / INR:14.4/24.7/1.3, CK / CKMB /
   Troponin-T:95/4/0.01, ALT / AST:115/238, Alk Phos / T Bili:800/10.4,
   Differential-Neuts:73.0 %, Band:6.0 %, Lymph:14.0 %, Mono:3.0 %,
   Eos:0.0 %, D-dimer:7002 ng/mL, Fibrinogen:108 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:3.0 g/dL, LDH:379 IU/L, Ca++:7.9 mg/dL, Mg++:1.2 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   52 year-old male with a history of metastatic prostate cancer who
   presents with hypotension, tacchycardia, acute renal failure and
   worsening anemia and liver function tests.
   #. Anemia: Source still unclear
 related to bleeding secondary to
   radiation cystitis + decreased production secondary to mets to bone,
   but unclear why hemolysis labs are positive.
   * CT abdomen/pelvis without any bleeding source.
   * Hemolysis labs abnormal, coags normal (although given vitamin K
   yesterday). No schistocytes seen on smear. Does not appear to be DIC
   given normal coags
 but with low fibrinogen, elevated FDP.
   Sequestration possible but no spleen enlargement appreciated on
   physical exam.
   * [**Month (only) 60**] be drug-induced (ceftriaxone); this was discontinued prior to
   transfer to [**Hospital Unit Name 44**]. [**Doctor First Name 2674**] also possible ([**2-10**] malignancy?); repeat
   peripheral smear with schistocytes
   * Coombs test negative
   - To OR today for formalin injection
   - 2 units pRBCs this morning, then PM hct following procedure
   - Transfuse to hct> 25, platelets>30
   # Hypotension/tachycardia: Likely due to hypovolemia from blood loss.
   Infection unlikely
 afebrile, no positive cultures. Urine, blood
   cultures with no growth to this point
 antibiotics d/c
d on [**10-17**].
   - pRBCs, IVF boluses to maintain MAP>60
   - Closely monitor MAP, CVP
   - CVL and A line for closer monitoring
   # Metastatic prostate cancer: defer to primary onc team
   # ARF: Now resolved. Was likely pre-renal due to hypotension and
   tacchycardia.
   #Elevated liver function tests: Likely due to mets, hypotension.
   Improving.
   - Continue to trend
   - Consider lactulose if mental status worsens
   # Radiation cystitis: Frank hematuria x several weeks.
   - Formalin injection today
   - Urology recs
   - If clots or not flushing, need to call urology
 already involved
   - Cont oxybutinin (may need to hold for mental status changes)
   - Cont urojet
   # OSA: CPAP at night
   # Chronic pain: Hold sedating pain medications at this time. No
   indication of withdrawal. Denies pain currently.
   - Cont gabapentin
   # H/O DVT/PE: not anticoagulation candidate, has IVC filter which was
   placed [**2168**].
   # Depression:
   - Cont citalopram
   # FEN:  NPO for urologic procedure today; replete lytes prn
   # Access: As below
   # PPx: Protonix, pneumoboots
   # Code: FULL CODE, confirmed with his oncologist
   # Dispo:  ICU level of care for now
   # Comm:  [**Name (NI) 16**] (wife), [**Telephone/Fax (1) 5836**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-15**] 12:45 PM
   PICC Line - [**2170-10-15**] 01:35 PM
   Arterial Line - [**2170-10-15**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-10-20 10:31:00 Physician Attending Progress Note
24 Hour Events:
   Went for bladder formalin instillation and had stable BP, improving HCT
   yesterday.  Overall improving and doing well without complaint today.
   Allergies:
   Ciprofloxacin: Rash; Latex: Unknown;
   Medications:
   PPI
   Lactulose
   Neurontin
   Dexamethasone
   Celexa
   Bacitracin
   Ditropan
   Belladona opium
   Colace
   Flowsheet Data as of  [**2170-10-20**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 109 (96 - 114) bpm
   BP: 92/58(71) {69/46(60) - 108/65(78)} mmHg
   RR: 21 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 9 (5 - 10)mmHg
   Total In:
                                                                  2,388 mL
                                                                  1,096 mL
   PO:
                                                                    200 mL
                                                                    640 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    456 mL
   Blood products:
                                                                    948 mL
   Total out:
                                                                  1,450 mL
                                                                  2,180 mL
   Urine:
                                                                  1,450 mL
                                                                  2,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    938 mL
                                                                 -1,084 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   Gen:  chronically ill appearing, no acute distress
   Chest:  clear anterior fields
   CV:  RRR without murmur/gallop
   Abd:  non-distended, non-tender
   Ext: trace edema B
   Labs / Radiology
   11.5 g/dL
   78 K/uL
   121 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   14 mg/dL
   109 mEq/L
   137 mEq/L
   30.9 %
   3.3 K/uL
        [image002.jpg]
                             [**2170-10-17**]  05:57 PM
                             [**2170-10-17**]  09:38 PM
                             [**2170-10-18**]  04:25 AM
                             [**2170-10-18**]  12:41 PM
                             [**2170-10-18**]  02:12 PM
                             [**2170-10-18**]  11:02 PM
                            [**2170-10-19**]  05:39 AM
                            [**2170-10-19**]  10:51 AM
                            [**2170-10-19**]  09:20 PM
                            [**2170-10-20**]  05:00 AM
   WBC
   2.1
   2.7
   2.4
   4.3
   3.3
   Hct
   26.6
   27.0
   26.7
   25.0
   22.5
   26.1
   31.7
   30.9
   Plt
   38
   38
   63
   53
   82
   71
   78
   Cr
   0.6
   0.5
   0.6
   0.5
   0.6
   Glucose
   100
   127
   107
   118
   121
   Other labs: PT / PTT / INR:14.4/24.7/1.3, CK / CKMB /
   Troponin-T:95/4/0.01, ALT / AST:115/238, Alk Phos / T Bili:800/10.4,
   Differential-Neuts:73.0 %, Band:6.0 %, Lymph:14.0 %, Mono:3.0 %,
   Eos:0.0 %, D-dimer:7002 ng/mL, Fibrinogen:108 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:3.0 g/dL, LDH:379 IU/L, Ca++:7.9 mg/dL, Mg++:1.2 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   52M with metastatic prostate cancer and ongoing GU bleed from radiation
   cystitis
 now s/p urologic procedure for improvement of bleeding.
   Stable yesterday.
   1)  GU bleed: related to chronic radiation cystitis. Now s/p formalin
   instillation for control of bladder bleeding.  HCT and HD stable.
   - will repeat HCT today and follow clinically
   - discuss management with urology, appreciate their input
   2) Pain: he is tachycardic and is some pain.  Will give low dose
   narcotics and monitor response.
   3) GI:  metastatic prostate CA to liver as etiology for LFT
   abnormalties.
   ICU Care
   Nutrition:
   Advance diet as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-15**] 12:45 PM
 d/c central line today if remains
   stable.
   PICC Line - [**2170-10-15**] 01:35 PM
   Arterial Line - [**2170-10-15**] 01:38 PM
   Prophylaxis:
   DVT:   boots, no heparin because of bleeding
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status:   Full code
   Disposition :  Can transfer to floor today